US07008958B2
Step C: 6-Methoxy-5-(5-oxazolyl)-2-(4-thiazolyl)-1H-indole
To a solution of 5-(4-amino-5-iodo-2-methoxyphenyl)oxazole (WO 0181340) (0.293 g, 0.93 mmol) in diethylamine (2.5 mL) was added 4-ethynylthiazole (0.118 g, 1.08 mmol) and bis(triphenylphosphine)palladiumdichloride (0.019 g, 0.027 mmol). The contents were purged with nitrogen and heated in a steel bomb at 120° C. for 20 minutes. The reaction mixture was cooled to rt and purified by silica gel column chromatography to provide the title compound (0.065 g, 20%). HPLC Ret. t=2.79 min. (A); LC/MS M+1=298.27.

reactant | 5-(4-amino-5-iodo-2-methoxyphenyl)oxazole | 0.93 mmol, 0.293 g | NC1=CC(=C(C=C1I)C1=CN=CO1)OC | C10H9IN2O2
reactant | 4-ethynylthiazole | 1.08 mmol, 0.118 g | C(#C)C=1N=CSC1 | C5H3NS
solvent | diethylamine | 2.5 mL | C(C)NCC | C4H11N
catalyst | bis(triphenylphosphine)palladiumdichloride | 0.027 mmol, 0.019 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 6-Methoxy-5-(5-oxazolyl)-2-(4-thiazolyl)-1H-indole | 0.065 g, 20% | COC1=C(C=C2C=C(NC2=C1)C=1N=CSC1)C1=CN=CO1 | C15H11N3O2S
